US05136043
64.1 g (0.5 mol) of naphthalene are introduced with ice cooling into 640.7 g (5.5 mol) of chlorosulfonic acid, to which 1 g of sulfamic acid has been added. The mixture is then stirred at room temperature for 4 hours. The reaction mixture is added dropwise to ice water, and the precipitated crystals are filtered off with suction and washed with water. 172.1 g of naphthalene-1,5-disulfonyl chloride having a water content of 26.5% and a chloride content of 71.6%, corresponding to 123.2 g (75.7%), are obtained.

reactant | naphthalene | 0.5 mol, 64.1 g | C1=CC=CC2=CC=CC=C12 | C10H8
reactant | chlorosulfonic acid | 5.5 mol, 640.7 g | ClS(=O)(=O)O | ClHO3S
catalyst | sulfamic acid | 1 g | S(N)(O)(=O)=O | H3NO3S
product | naphthalene-1,5-disulfonyl chloride | 172.1 g | C1(=CC=CC=2C(=CC=CC12)S(=O)(=O)Cl)S(=O)(=O)Cl | C10H6Cl2O4S2
